US08685973B2
Trifluoromethanesulfonic acid 4-phenyl-cyclohex-1-enyl ester.
A solution of diisopropylamine (4.46 mL) in tetrahydrofuran (25 mL) under nitrogen at −20° C. was treated with a 2.5 M solution of n-butyl lithium (12.6 mL) and stirred for 15 minutes. The resulting mixture was cooled to −78° C. before a solution of 4-phenylcyclohexanone (5.0 g) in tetrahydrofuran (20 mL) was added over 20 minutes. The resulting solution was stirred at −78° C. for 3 hours then treated with a solution of N-phenyl-bis(trifluoromethanesulfonimide) (10.76 g) in tetrahydrofuran (25 mL). The mixture was stirred at −78° C. for 1.5 hours then warmed to room temperature and stirred for a further 18 hours. The reaction mixture was concentrated under reduced pressure and the resulting residue partitioned between ethyl acetate and water. The organic layer was washed with 2M sodium hydroxide solution and brine, then dried over sodium sulfate. The solvent was removed under reduced pressure to afford the title compound as an oil (7.3 g). 1H NMR (CDCl3): δ 7.32-7.31 (2H, m), 7.24-7.22 (3H, m), 5.87-5.84 (1H, m), 2.85-2.84 (1H, m), 2.55-2.54 (1H, m), 2.44-2.43 (2H, m), 2.35-2.34 (1H, m), 2.09-2.07 (1H, m), 1.96-1.95 (1H, m).

reactant | diisopropylamine | 4.46 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 12.6 mL | C(CCC)[Li]
reactant | 4-phenylcyclohexanone | 5.0 g | C1(=CC=CC=C1)C1CCC(CC1)=O | C12H14O
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | 10.76 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | Trifluoromethanesulfonic acid 4-phenyl-cyclohex-1-enyl ester | 7.3 g | C1(=CC=CC=C1)C1CC=C(CC1)OS(=O)(=O)C(F)(F)F | C13H13F3O3S
